US04824958
4-Bromo-3-mercapto-5-methyl-2-thiophenecarboxylic acid.
Methyl 4-bromo-3-{[(dimethylamino)carbonyl]thio}-5-methyl-2-thiophenecarboxylate (1.5 g, 4 mmoles) is stirred in a mixture of methanol (3 mL) and 5N sodium hydroxide (10 mL) and heated under reflux. After 21/2 hours the mixture is cooled, stirred into ice water, and acidified with concentrated HCl. The precipitate is filtered off, rinsed with water and dried to afford the product (1.0 g); mp 177° C. (dec).

reactant | Methyl 4-bromo-3-{[(dimethylamino)carbonyl]thio}-5-methyl-2-thiophenecarboxylate | 4 mmoles, 1.5 g | BrC=1C(=C(SC1C)C(=O)OC)SC(=O)N(C)C | C10H12BrNO3S2
reactant | HCl | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
solvent | sodium hydroxide | 5N, 10 mL | [OH-].[Na+]
product | 4-Bromo-3-mercapto-5-methyl-2-thiophenecarboxylic acid | 1.0 g | BrC=1C(=C(SC1C)C(=O)O)S | C6H5BrO2S2
